US08609656B2
1-[4-(6-Chloropurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)-1-hydroxyurea (Table 1, Compound No. 52)
The title compound can be synthesized from 6-chloropurine, 4-fluoronitrobenzene and 4-chloro-3-(trifluoromethyl)phenyl isocyanate by using the same techniques as in Example 45.

reactant | 6-chloropurine | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 1-[4-(6-Chloropurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)-1-hydroxyurea | ClC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)N(C(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)O | C19H11Cl2F3N6O2
